US05132310
rac-5-[(3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]-2-hydroxybenzoic acid methyl ester was prepared by reacting rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with 2-hydroxy-5-iodobenzoic acid methyl ester [M. Covello, Chim. Ther. 2, 73 (1967)] as described in Example 4. The compound was isolated by chromatography over silica gel using methylene chloride and was crystallized from ethyl acetate/hexane to yield colorless crystals with m.p. 151°-153° C.

reactant | rac-3,4-dihydro-2-ethynyl-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | 2-hydroxy-5-iodobenzoic acid methyl ester | COC(C1=C(C=CC(=C1)I)O)=O | C8H7IO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | rac-5-[(3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethynyl]-2-hydroxybenzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C)O)=O | C23H24O5
